** sch_path: /home/ishi-kai/Projects/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/SSF_sim_hier.sch
**.subckt SSF_sim_hier
V1 VDD VSS 5
VIN VIN net2 sin(0 0.1 2k)
R1 net1 VSS 10
V2 net2 VSS 2.5
C1 VSPEAKER VOUT 10u
x1 VDD VSS VIN VOUT IBN40u BUF_SSF
V3 VSS 0 0
I0 VDD IBN40u 40u
V4 VSPEAKER net1 0
**** begin user architecture code
 .include /home/ishi-kai/pdk/TR-1um/libs.tech/spice/models/ip62_models


.option savecurrent
.control
op
show m
save all
*save @m.xm1.m1[gds]
*save @m.xm3.m1[id]


*dc VIN 0 5.0 0.01
*plot VSPEAKER
tran 0.01m 100m
plot VSPEAKER
plot i(V1)
plot i(v4)
*plot X1.CMPNC
*plot X1.CMBIAS
*plot VCM
*plot @m.xm3.m1[id]
.endc


**** end user architecture code
**.ends

* expanding   symbol:  BUF_SSF.sym # of pins=5
** sym_path: /home/ishi-kai/Projects/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/BUF_SSF.sym
** sch_path: /home/ishi-kai/Projects/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/BUF_SSF.sch
.subckt BUF_SSF VDD VSS VIN VOUT IBN40u
*.opin VOUT
*.ipin VDD
*.ipin VSS
*.ipin VIN
*.ipin IBN40u
XM1 hogehoge VIN VOUT VSS NMOS w=10u l=1u nrd=0 nrs=0 m=32
XM3 VOUT net2 VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=16
XM6 IBN40u IBN40u VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=2
XM4 hogehoge net1 VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=16
XM5 VOUT hogehoge VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=16
XM8 net1 IBN40u VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=20
XM9 net1 net1 VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=2
XM10 net2 net1 VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=2
XM11 net2 net2 VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=2
XM2 VOUT hogehoge VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=16
XM7 VOUT hogehoge VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=16
XM12 VOUT hogehoge VDD VDD PMOS w=10u l=2u nrd=0 nrs=0 m=16
XM13 VOUT net2 VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=16
XM14 VOUT net2 VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=16
XM15 VOUT net2 VSS VSS NMOS w=10u l=2u nrd=0 nrs=0 m=16
XM16 VDD VDD VDD VDD PMOS w=10u l=2u nrd=0 nrs=0
XM17 VDD VDD VDD VDD PMOS w=10u l=2u nrd=0 nrs=0
XM18 VDD VDD VDD VDD PMOS w=10u l=2u nrd=0 nrs=0
XM19 VDD VDD VDD VDD PMOS w=10u l=2u nrd=0 nrs=0
XM20 VSS VSS VSS VSS PMOS w=10u l=2u nrd=0 nrs=0
XM21 VSS VSS VSS VSS PMOS w=10u l=2u nrd=0 nrs=0
XM22 VSS VSS VSS VSS PMOS w=10u l=2u nrd=0 nrs=0
XM23 VSS VSS VSS VSS PMOS w=10u l=2u nrd=0 nrs=0
.ends

.end
