** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/top/top.sch
.subckt top XTALP VDD VSS XTALN IBN40U VB VOUT VINN VINP VDDBUF
*.PININFO IBN40U:I XTALN:B VINN:I XTALP:B VINP:I VB:I VDD:B VOUT:O VDDBUF:B VSS:B
x2 VB ifn VDD ifp VSS VXON VXOP vop von IBN40U gilbert_cell
x3 VB VDD vop von VSS VINN VINP IBN40U fully_diff_amp
x1 VDDBUF VSS ifn VOUT IBN40UI OBUF_SSF
x4 VDD IBN40U IBN40UI VSS bias40u
x5 VDD VSS VXOP XTALN XTALP VXON XTALOSC
.ends

* expanding   symbol:  gilbert_cell/gilbert_cell.sym # of pins=10
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/gilbert_cell/gilbert_cell.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/gilbert_cell/gilbert_cell.sch
.subckt gilbert_cell vb ifn vdd ifp vss lop lon rfn rfp vt
*.PININFO ifp:O ifn:O rfp:I vb:I vt:I rfn:I vdd:B vss:B lon:I lop:I
MM1 ifp vb vdd vdd PMOS w=45u l=2u
MM2 ifn vb vdd vdd PMOS w=45u l=2u
MM3 net3 vt vss vss NMOS w=10u l=2u m=2
MM7 net1 rfp net3 vss NMOS w=20u l=2u
MM8 net2 rfn net3 vss NMOS w=20u l=2u
MM5 ifn lop net1 vss NMOS w=20u l=2u
MM6 ifp lon net1 vss NMOS w=20u l=2u
MM9 ifn lon net2 vss NMOS w=20u l=2u
MM10 ifp lop net2 vss NMOS w=20u l=2u
.ends


* expanding   symbol:  diff_amp/fully_diff_amp.sym # of pins=8
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/diff_amp/fully_diff_amp.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/diff_amp/fully_diff_amp.sch
.subckt fully_diff_amp vb vdd vop von vss vinn vinp vt
*.PININFO vop:O von:O vinp:I vb:I vt:I vinn:I vdd:B vss:B
MM1 vop vb vdd vdd PMOS w=45u l=2u
MM2 von vb vdd vdd PMOS w=45u l=2u
MM3 net1 vt vss vss NMOS w=10u l=2u m=2
MM7 von vinp net1 vss NMOS w=20u l=2u
MM8 vop vinn net1 vss NMOS w=20u l=2u
MM6 net2 net2 vop vdd PMOS w=45u l=8u
MM9 net2 net2 vinn vdd PMOS w=45u l=8u
MM5 net3 net3 von vdd PMOS w=45u l=8u
MM10 net3 net3 vinp vdd PMOS w=45u l=8u
MM12 vinn vinn vss vss NMOS w=12.6u l=8u
MM13 vinn vinn vdd vdd PMOS w=34.4u l=8u
MM11 vinp vinp vss vss NMOS w=12.6u l=8u
MM14 vinp vinp vdd vdd PMOS w=34.4u l=8u
.ends


* expanding   symbol:  OBUF_SSF/OBUF_SSF.sym # of pins=5
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/OBUF_SSF.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/OBUF_SSF/OBUF_SSF.sch
.subckt OBUF_SSF VDD VSS VIN VOUT IBN40U
*.PININFO VDD:I VSS:I VIN:I IBN40U:I VOUT:O
MM1 hogehoge VIN VOUT VSS NMOS w=10u l=1u m=32
MM3 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM6 IBN40U IBN40U VSS VSS NMOS w=10u l=2u m=2
MM4 hogehoge net1 VDD VDD PMOS w=10u l=2u m=16
MM5 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM8 net1 IBN40U VSS VSS NMOS w=10u l=2u m=16
MM9 net1 net1 VDD VDD PMOS w=10u l=2u m=2
MM10 net2 net1 VDD VDD PMOS w=10u l=2u m=2
MM11 net2 net2 VSS VSS NMOS w=10u l=2u
MM2 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM7 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM12 VOUT hogehoge VDD VDD PMOS w=10u l=2u m=16
MM13 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM14 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM15 VOUT net2 VSS VSS NMOS w=10u l=2u m=16
MM16 VDD VDD VDD VDD PMOS w=10u l=2u m=8
MM24 net2 net2 VSS VSS NMOS w=10u l=2u
MM20 VSS VSS VSS VSS NMOS w=10u l=2u m=6
MM31 VDD VDD VDD VDD PMOS w=10u l=2u m=4
MM32 VSS VSS VSS VSS NMOS w=10u l=2u m=6
.ends


* expanding   symbol:  bias_for_mix_amp/bias40u.sym # of pins=4
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/bias_for_mix_amp/bias40u.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/bias_for_mix_amp/bias40u.sch
.subckt bias40u vdd ib40u is40u vss
*.PININFO vss:B ib40u:B vdd:B is40u:O
MXM1 ib40u ib40u vss vss NMOS w=10u l=2u m=2
MXM2 net1 ib40u vss vss NMOS w=10u l=2u m=2
MXM3 net1 net1 vdd vdd PMOS w=45u l=2u
MXM4 is40u net1 vdd vdd PMOS w=45u l=2u
.ends


* expanding   symbol:  XTALOSC/XTALOSC.sym # of pins=6
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/XTALOSC/XTALOSC.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/XTALOSC/XTALOSC.sch
.subckt XTALOSC VDD VSS VON XTALN XTALP VOP
*.PININFO VSS:I VON:O VOP:O VDD:I XTALP:I XTALN:I
x2 VDD XTALP VON0 VSS INV_X1
x3 VDD VOP2 VON VSS INV_X4
x4 VDD VON2 VOP VSS INV_X4
x7 VDD XTALP VOP0 VSS BUF_X1
x1 VDD VON0 VON1 VSS INV_X1
x8 VDD VOP0 VOP1 VSS INV_X1
x9 VDD VON1 VON2 VSS INV_X2
x10 VDD VOP1 VOP2 VSS INV_X2
x5 VDD VON VOP VSS INV_X1
x6 VDD VOP VON VSS INV_X1
x11 VDD XTALN XTALP VSS XTALOSC_INV
.ends


* expanding   symbol:  INV_X1.sym # of pins=4
** sym_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X1.sym
** sch_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X1.sch
.subckt INV_X1 VDD A Y GND
*.PININFO A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u
MM2 Y A GND GND NMOS w=3.4u l=1u
.ends


* expanding   symbol:  INV_X4.sym # of pins=4
** sym_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X4.sym
** sch_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X4.sch
.subckt INV_X4 VDD A Y GND
*.PININFO A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u m=4
MM1 Y A GND GND NMOS w=3.4u l=1u m=4
.ends


* expanding   symbol:  BUF_X1.sym # of pins=4
** sym_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/BUF_X1.sym
** sch_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/BUF_X1.sch
.subckt BUF_X1 VDD A Y GND
*.PININFO A:I Y:O VDD:B GND:B
MM7 net1 A VDD VDD PMOS w=10.2u l=1u
MM1 Y net1 VDD VDD PMOS w=10.2u l=1u
MM3 net1 A GND GND NMOS w=3.4u l=1u
MM2 Y net1 GND GND NMOS w=3.4u l=1u
.ends


* expanding   symbol:  INV_X2.sym # of pins=4
** sym_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X2.sym
** sch_path: /home/ishi-kai/pdk/TR-1um/libs.tech/xschem/TR-1um_5_stdcell/INV_X2.sch
.subckt INV_X2 VDD A Y GND
*.PININFO A:I Y:O GND:B VDD:B
MM7 Y A VDD VDD PMOS w=10.2u l=1u m=2
MM2 Y A GND GND NMOS w=3.4u l=1u m=2
.ends


* expanding   symbol:  XTALOSC/XTALOSC_INV.sym # of pins=4
** sym_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/XTALOSC/XTALOSC_INV.sym
** sch_path: /home/ishi-kai/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/JJY_Receiver/Masahiro/jjy_recv/XTALOSC/XTALOSC_INV.sch
.subckt XTALOSC_INV VDD VIN VOUT VSS
*.PININFO VSS:I VDD:I VIN:I VOUT:O
MM1 VOUT VIN VDD VDD PMOS w=12u l=10u
MM2 VOUT VIN VSS VSS NMOS w=4u l=10u
.ends

